Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Dicloxacillin / Amoxicillin / lisinopril / Cephalexin / 
amlodipine / Erythromycin Base / Vicodin ES / atenolol / 
spironolactone / Oxycodone / Povan for worms
 
Attending: ___.
 
Chief Complaint:
'Fatigue and no appetite'
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is ___ year old woman with history of follicular lymphoma 
currently on rituxin and bendamustine therapy last administered 
___ who presents from clinic complaining of fatigue and no 
appetite since last treatment along with diarrhea x1 week. She 
describes the diarrhea as up to ___nd soft 
bowel movements daily. She has used immodium with fair relief 
until this morning, when she had at least an additional 5 BM. 
She also notes her fatigue and poor appetite have progressed 
over this time period, and experiences significant DOE. She 
cannot describe how far she can walk before becoming SOB. She 
denies emesis, abdominal pain, fevers or chills. No sick 
contacts. She does have occasional nausea. Of note, patient 
stopped taking her home terazosin last week because she felt her 
blood pressure was too low to be taking it.
.
On review of systems she endorses current headache, otherwise 
unremarkable except as above.
 
Past Medical History:
PAST ONCOLOGIC HISTORY:
Follicular lymphoma, grade I/III diagnosed in ___ by bx of an 
axillary LN with mild retroperitoneal adenopathy and 
splenomegaly. Needle bx of mildly enlarged submandibular LN ___ 
again showed low grade lymphoma. Dev'd extensive preauricular, 
cervical and supraclavicular adenopathy, splenomegaly ___. Rx'd 
8 cycles Rit/CVP ___ held last 2 cycles 
due to paresthesias . 
Transient neutropenia assoc with diverticulitis ___ ? from 
Rituxan. Given 2nd dose maintenance Rituxan ___. Developed 
transient neutropenia 4 wks later, responded quickly to 
neupogen. 
___: Maintenance Rituxan 
___- surveillance CT scans showed increase in 
abdominal/pelvic/RP LAD, as pt was asymptomatic at the time, 
decision made to monitor closely.
___- pt c/o increasing fatigue, LLE edema, abdominal 
discomfort/bloating- decision made to begin treatment with 
Rituxan/Bendamustine
___- Cycle 2 ___
___- Cycle 3 ___
.
.
PAST MEDICAL HISTORY:
- Breast cancer diagnosed ___. S/p total mastectomy with daily 
arimidex
- DM
- HLD
- HTN
- Asthma
 
Social History:
___
Family History:
Sister with breast cancer, brother with pancreatic cancer, 
nephew with NHL, father with DM and mother with heart disease.
 
Physical Exam:
FEX ON ADMISSION
GENERAL: Elderly woman sitting up comfortably in bed. AAOx3. 
Cooperative. NAD.
HEENT: EOMI, PERRLA, anicteric sclera, pink conjunctiva, MMM, 
small 1-2mm ulcer noted on buccal mucosa opposite rt maxillary 
molars.
NECK: Supple neck, no LAD, no JVD
CARDIAC: RRR, S1/S2, no mrg
LUNG: CTAB, nonlabored
ABDOMEN: nondistended, +BS, liver palpable to 2cm below costal 
margin on inspiration and tender.
EXTREMITITES: WWP, 2+ peripheral pulses. No cce.
NEURO: CN II-XII intact, strength ___ throughout. Cerebellar fxn 
intact to FTN. No gross sensory loss. Gait deferred.

FEX ON DISCHARGE
Vitals - T 98.3 130-70 83 18 97%RA
GENERAL: Elderly woman sitting up comfortably in bed. AAOx3. 
Cooperative. NAD.
HEENT: EOMI, PERRLA, anicteric sclera, pink conjunctiva, MMM.
NECK: Supple neck, no LAD, no JVD
CARDIAC: RRR, S1/S2, no mrg
LUNG: CTAB, nonlabored
ABDOMEN: nondistended, +BS, Soft. liver palpable to 2cm below 
costal margin on inspiration. Mildly tender LUQ without rebound 
or guarding.
EXTREMITITES: WWP, 2+ peripheral pulses. No cce.
NEURO: CN II-XII intact, No gross change to sensory or motor 
function.
 
Pertinent Results:
PERTINENT LABS
___ 06:30AM BLOOD WBC-2.5* RBC-2.87* Hgb-8.7* Hct-24.2* 
MCV-84 MCH-30.3 MCHC-36.0* RDW-17.4* Plt ___
___ 07:20AM BLOOD WBC-2.8* RBC-3.17* Hgb-9.5* Hct-27.1* 
MCV-86 MCH-30.0 MCHC-35.1* RDW-17.7* Plt ___
___ 06:30AM BLOOD ___ PTT-23.4 ___
___ 06:30AM BLOOD ___ ___
___ 06:30AM BLOOD Glucose-107* UreaN-22* Creat-1.0 Na-139 
K-3.1* Cl-101 HCO3-28 AnGap-13
___ 07:20AM BLOOD Glucose-179* UreaN-16 Creat-0.9 Na-136 
K-3.9 Cl-100 HCO3-27 AnGap-13
___ 06:30AM BLOOD Calcium-8.0* Phos-2.1* Mg-1.4*
___ 07:20AM BLOOD Calcium-8.9 Phos-1.9* Mg-1.5*
___ 06:30AM BLOOD TSH-1.3

MICROBIOLOGY
CDiff Toxin ___: Negative

REPORTS
CXR ___: Opacity at the left base could represent 
atelectasis or
developing infection. Correlation with prior radiographs, if 
available, may
be useful or consider close follow up. If clinically treated as 
pneumonia, a
four week follow up to evaluate for resolution is recommended.
 
Brief Hospital Course:
PRINCIPLE REASON FOR ADMISSION
___ year old woman with history of follicular lymphoma presents 
with progressive fatigue, poor appetite, and diarrhea following 
rituxin and bendamustine therapy.

ACTIVE PROBLEMS

# Fatigue: Likely chemotherapy related considering temporal 
relation compounded by dehydration due to poor po intake and 
diarrhea. Provided IVF's and patient noted to not be 
orthostatic. By discharge, patient was feeling much better with 
excellent appetite and ambulating well. TSH was noted to be 
normal.

# Diarrhea: Unclear etiology. Patietn was complaining of several 
large volume soft BM nightly for one week before admission. 
Temporally related to po contrast administration for outpatient 
CT scan, however lasted longer than expected. CDiff negative and 
patient had no signs or symptoms of significant infection 
including no fever or abdominal pain. Patient was treated 
symptomatically with lopearamide and lomotil with good effect.

# Anxiety: Patient noted to be very anxious during hospital 
stay. Required 0.25 mg lorazepam night of admission for mild 
anxiety attack with good relief.

CHRONIC PROBLEMS

# DM: Held metformin and glyburide while inpatient. Provided 
HISS with good control of blood sugar.

# HTN: Normotensive. Held home BP medications in light of 
diarrhea and likely dehydration. 

# HLD: Continued home statin.

# Hx of breast cancer. Not active. Held arimidex while 
inpatient.
.
# Follicular lymphoma: Patient to continue planned follow up 
with outpatient oncologist.

OUTSTANDING STUDIES
-None

TRANSITIONAL ISSUES
-Continue planned follow up for follicular lymphoma and breast 
cancer
 
Medications on Admission:
Per outside records, patient unable to reconcile
-Diphenhydramine HCl 50 mg/mL Injection Solution 50mg iv 
-Ranitidine HCl (ZANTAC) 50 mg/2 mL (25 mg/mL) Injection 
Solution 50mg iv 
-Bendamustine (TREANDA) 100 mg Intravenous Recon Soln 
bendamustine 176mg conc:5mg/ml=35.2ml <<<>>> 
-Rituximab (RITUXAN) 10 mg/mL Intravenous Concentrate rituximab 
735mg conc:10mg/ml=73.5ml <<<>>> 
.
-Anastrozole 1 mg Oral Tablet TAKE ONE TABLET DAILY  
Codeine-Guaifenesin ___ mg/5 mL Oral Liquid TAKE 1 TO 2 
TEASPOONFULS BY MOUTH EVERY FOUR HOURS AS NEEDED FOR COUGH 
-Simvastatin 10 mg Oral Tablet take 1 tablet every night for 
cholesterol 
-Glyburide 5 mg Oral Tablet take 2 tablets TWICE DAILY 
-Rituximab (RITUXAN) 10 mg/mL Intravenous Concentrate rituximab 
742mg conc:10mg/ml=74.2ml <<<>>> 
-Blood Sugar Diagnostic (ONE TOUCH ULTRA TEST) Misc.(Non-Drug; 
Combo Route) Strip use AS DIRECTED 
-Lansoprazole 30 mg Oral Capsule, Delayed Release(E.C.) TAKE 1 
CAPSULE TWICE A DAY for stomach acid 
-Albuterol Sulfate (PROAIR HFA) 90 mcg/Actuation Inhalation HFA 
Aerosol Inhaler INHALE 2 PUFFS EVERY FOUR TO SIX HOURS AS NEEDED 

-Pegfilgrastim (NEULASTA) 6 mg/0.6mL Subcutaneous Syringe inject 
6 mg (0.6 ml) under the skin 24 hours after chemotherapy 
-Pegfilgrastim (NEULASTA) 6 mg/0.6mL Subcutaneous Syringe  
-Prochlorperazine Maleate 10 mg Oral Tablet take one tabLET BY 
MOUTH every ___ hours as needed for nausea 
-Ondansetron HCl 8 mg Oral Tablet take one tabLET BY MOUTH every 
8 hours as needed for nausea 
-Terazosin 2 mg Oral Capsule TAKE 1 CAPSULE TWICE DAILY for 
blood pressure (IC FOR HYTRIN) 
-Hydrochlorothiazide 50 mg Oral Tablet TAKE ONE TABLET DAILY 
(FOR BLOOD PRESSURE AND FLUID) 
-Metformin 1,000 mg Oral Tablet TAKE 1 TABLET TWICE A DAY (FOR 
DIABETES) 
-Fluticasone (FLOVENT HFA) 220 mcg/Actuation Inhalation Aerosol 
INHALE 2 PUFFS TWICE DAILY 
-Hexachlorophene (PHISOHEX) 3 % Topical Liquid use to wash ___ 
times a week AS DIRECTED 
-Hydrochlorothiazide 25 mg Oral Tablet TAKE ONE TABLET DAILY for 
blood pressure 
-ONE TOUCH ULTRA 2 KIT (BLOOD-GLUCOSE METER) Use as directed 
OTHER MEDICATION () sarna lotion 8 oz 1:1 with aristocort lotion 
0.05%, as directed 
 
Discharge Medications:
1. anastrozole 1 mg Tablet Sig: One (1) Tablet PO once a day.  
2. simvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. glyburide 5 mg Tablet Sig: Two (2) Tablet PO twice a day.  
4. lansoprazole 30 mg Capsule, Delayed Release(E.C.) Sig: One 
(1) Capsule, Delayed Release(E.C.) PO once a day.  
5. albuterol sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
Two (2) Puff Inhalation Q6H (every 6 hours) as needed for SOB.  
6. prochlorperazine maleate 10 mg Tablet Sig: One (1) Tablet PO 
every ___ hours as needed for nausea.  
7. ondansetron 8 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO every eight (8) hours as needed for nausea.  
8. terazosin 2 mg Capsule Sig: One (1) Capsule PO twice a day.  
9. hydrochlorothiazide 25 mg Tablet Sig: One (1) Tablet PO at 
bedtime.  
10. metformin 1,000 mg Tablet Sig: One (1) Tablet PO twice a 
day.  
11. Flovent HFA 220 mcg/Actuation Aerosol Sig: Two (2) puffs 
Inhalation twice a day.  
12. hexachlorophene 3 % Liquid Sig: One (1) application Topical 
___ times per week: as directed.  
13. loperamide 2 mg Capsule Sig: Two (2) Capsule PO QID (4 times 
a day) as needed for Diarrhea.
Disp:*30 Capsule(s)* Refills:*0*
14. magnesium oxide 250 mg Tablet Sig: One (1) Tablet PO twice a 
day for 2 days.
Disp:*4 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Diarrhea
Secondary: Follicular lymphoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital because you were fatigued with 
poor appetite and diarrhea following chemotherapy. We ran blood 
and stool tests, which showed you were dehydrated, but showed no 
evidence of infection. We gave you IV fluids and treated your 
diarrhea symptomatically with medicines. You started feeling a 
lot better and are ready to go home. 

Please note the following changes to your medications:
- START Loperamide (Imodium) 2mg upto 4 times a day as needed 
for diarrhea
- START Magnesium oxide 250mg twice a day for 2 days

We made no other changes to your medications. Please follow up 
with your regular doctors as previously ___. It has been a 
pleasure taking care of you.
 
Followup Instructions:
___